US05747499
(2) o-Fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]-β,β-dimethylstyrene
A mixture of o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-β,β-dimethylstyrene (1.4 g), propargyl bromide (6.1 g), calcium carbonate (0.88 g) and DMA (20 ml) was stirred and heated to 80° C. for 6 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and water. The organic phase was washed with water and with brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography using initially increasingly polar mixtures of hexane and ethyl acetate and then increasingly polar mixtures of methylene chloride and ethyl acetate as eluant. There was thus obtained o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]-β,β-dimethylstyrene (1.04 g);

reactant | o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-β,β-dimethylstyrene | 1.4 g | FC1=C(C=C(C)C)C=CC(=C1)NC1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O | C28H32FN3O3
reactant | propargyl bromide | 6.1 g | C(C#C)Br | C3H3Br
reactant | calcium carbonate | 0.88 g | C([O-])([O-])=O.[Ca+2]
solvent | DMA | 20 ml | CC(=O)N(C)C | C4H9NO
product | o-Fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]-β,β-dimethylstyrene | FC1=C(C=C(C)C)C=CC(=C1)N(CC#C)C1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O | C31H34FN3O3
